US06515188B2
The reaction mixture obtained in (1) was mixed with 30 ml of water and 50 ml of heptane to effect separation, the organic layer was washed with saturated brine and dried with anhydrous sodium sulfate, and then the solvent was recovered to obtain an oily substance. By distilling this oily substance under a reduced pressure, partially purified 1-acetoxy-3-l-menthoxypropan-2-ol was obtained at a boiling point of from 111 to 120° C./25 Pa (0.19 mmHg). Composition of this product when analyzed by the gas chromatography was composed of 5.53% by mass of 3-l-menthoxypropane-1,2-diol, 86.04% by mass of 1-acetoxy-3-l-menthoxypropan-2-ol (yield 92.38% based on 1-chloro-3-l-menthoxypropan-2-ol) and 5.13% by mass of 1,2-diacetoxy-3-l-menthoxypropane.

reactant | 3-l-menthoxypropane-1,2-diol | CC1CCC(C(C1)OCC(CO)O)C(C)C | C13H26O3
reactant | 1,2-diacetoxy-3-l-menthoxypropane | C(C)(=O)OCC(COC1(CCC(CC1)C(C)C)C)OC(C)=O | C17H30O5
product | 1-acetoxy-3-l-menthoxypropan-2-ol | yield 92.38% | C(C)(=O)OCC(COC1(CCC(CC1)C(C)C)C)O | C15H28O4
